US04353827
10.6 g (50.9 mmol) of 6-nitroisatoic acid anhydride and 6.1 g (50.9 mmol) of L-proline in 70 ml of dimethyl sulphoxide are heated to 90° for 45 minutes, the mixture is subsequently evaporated in a high vacuum and the residue obtained is heated to 140° for 4 hours. The crystalline crude product is taken up in 100 ml of boiling ethanol, left to stand in the cold overnight, the material obtained is filtered off under suction while back-washing with cold ethanol and dried to constant weight. There is obtained (S)-1,2,3,11a-tetrahydro-6-nitro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione which has a decomposition point of 235°-237°.

reactant | 6-nitroisatoic acid anhydride | 50.9 mmol, 10.6 g | [N+](=O)([O-])C=1C=CC=C2C1C(=O)OC(N2)=O | C8H4N2O5
reactant | L-proline | 50.9 mmol, 6.1 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 70 ml | CS(=O)C | C2H6OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (S)-1,2,3,11a-tetrahydro-6-nitro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | [N+](=O)([O-])C1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C12H11N3O4
